US05922722
4-cyano-4-(2-methylphenyl)piperidine;
4-(2-chlorophenyl)-4-cyanopiperidine or 4-(2-chlorophenyl)-4-(methoxycarbonyl)piperidine

reactant | 4-(2-chlorophenyl)-4-cyanopiperidine | ClC1=C(C=CC=C1)C1(CCNCC1)C#N | C12H13ClN2
reactant | 4-(2-chlorophenyl)-4-(methoxycarbonyl)piperidine | ClC1=C(C=CC=C1)C1(CCNCC1)C(=O)OC | C13H16ClNO2
product | 4-cyano-4-(2-methylphenyl)piperidine | C(#N)C1(CCNCC1)C1=C(C=CC=C1)C | C13H16N2
